US08003649B2
Sodium hydride (60% dispersion in oil, 0.120 g, 3.0 mmol) was added to neat methyl glycolate (1.544 mL, 20.0 mmol). When the effervescence had subsided 6-[4-(methanesulfonyloxymethyl)piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (0.759 g, 2.0 mmol) was added and the mixture was heated at 100° C. for 40 minutes. The reaction mixture was partitioned between DCM and water. The organic phase was washed with water and brine, dried over MgSO4 and evaporated. The product was isolated by MPLC silica chromatography, eluting with ethyl acetate. The product containing fractions were evaporated to an oil which crystallised from ether, giving methyl 2-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methoxy]acetate (0.130 g, 17%).

reactant | Sodium hydride | 3.0 mmol, 0.120 g | [H-].[Na+]
reactant | methyl glycolate | 20.0 mmol, 1.544 mL | C(CO)(=O)OC | C3H6O3
reactant | 6-[4-(methanesulfonyloxymethyl)piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 2.0 mmol, 0.759 g | CS(=O)(=O)OCC1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C13H16F3N5O3S
product | methyl 2-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methoxy]acetate | 0.130 g, 17% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)COCC(=O)OC)(F)F | C15H18F3N5O3
